US08975398B2
tert-butyl 4-(4-aminobenzyl)piperidine-1-carboxylate
A solution of 2,2,2-trifluoro-N-(4-(piperidin-4-ylmethyl)phenyl)acetamide (26.4 g, 92 mmol) in dichloromethane (369 ml) was cooled to 0° C. and triethylamine (19.28 ml, 138 mmol) was added slowly. To the resulting solution was added di-tert-butyl dicarbonate (22.14 g, 101 mmol) in dichloromethane (75 ml) via addition funnel over 10 minutes. The 0° C. mixture was stirred for 2 hours and warmed slowly overnight. The reaction mixture was recooled to 0° C., treated with 1 N aqueous sodium hydroxide (100 ml), warmed to room temperature and stirred for 1 hour. The bilayer was separated and the organics were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by normal phase chromatography to give the title compound.

reactant | 2,2,2-trifluoro-N-(4-(piperidin-4-ylmethyl)phenyl)acetamide | 92 mmol, 26.4 g | FC(C(=O)NC1=CC=C(C=C1)CC1CCNCC1)(F)F | C14H17F3N2O
reactant | triethylamine | 138 mmol, 19.28 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 101 mmol, 22.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1 N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 369 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | tert-butyl 4-(4-aminobenzyl)piperidine-1-carboxylate | NC1=CC=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H26N2O2
